US04859230
Preparation of 4-chloro-5-(2,2-difluorocyclopropylmethoxy)-2-fluoronitrobenzene
3.6 g 2-Chloro-4-fluoro-5-nitrophenol was dissolved in dimethylformamide and treated with potassium carbonate. The mixture was stirred at room temperature for one hour and then 3.3 g 2,2-difluorocyclopropylmethyl bromide added. It was the heated at 80° C. for 2 hours and added to water. The mixture was extracted with methylene chloride and the organic phase washed with saturated brine, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel using a mixture of 3 parts hexane and 1 part ethyl acetate. There was obtained 5 g (=93% of theory) of yellow crystals whose nmr spectrum is as follows: δ=1.1-2.4 ppm (m) 3H, δ=4.15 ppm (d 7 Hz,tr 1.5 Hz) 2H, δ=7.35 ppm (d 10 Hz) 1H, δ=7.5 ppm (d 7 Hz) 1H.

reactant | 2-Chloro-4-fluoro-5-nitrophenol | 3.6 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-difluorocyclopropylmethyl bromide | 3.3 g | FC1(C(C1)CBr)F | C4H5BrF2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-5-(2,2-difluorocyclopropylmethoxy)-2-fluoronitrobenzene | ClC1=CC(=C(C=C1OCC1C(C1)(F)F)[N+](=O)[O-])F | C10H7ClF3NO3
